US08445510B2
2-(trans-4-{[tert-Butyl(dimethyl)silyl]oxy}cyclohexyl)-1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-imidazole
A mixture of 2-(trans-4-{[tert-Butyl(dimethyl)silyl]oxy}cyclohexyl)-1-methyl-1H-imidazole (0.157 g, 0.533 mmol), [Ir(OMe)(COD)]2 (13 mg, 0.019 mmol), 4,4′-Di-tert-butyl-[2,2′]bipyridinyl (7.7 mg, 0.029 mmol), and bis(pinacolato)diboron (138 mg, 0.544 mmol) in a microwave vial was taken up in Heptane (1.5 mL, 10 mmol). The mixture was flushed with nitrogen, sealed and heated in a microwave reactor to 100° C. for 30 min. LC/MS of the reaction mixture indicated clean and complete conversion of the imidazole starting material to the boronate. The title compound was not isolated; instead, the heptane solution was directly used in the next step. MS (ES+): m/z=338.30/339.24/340.31 (48/100/51) [MH+]. HPLC: tR=2.40 min (nonpolar—5 min, ZQ3). UV: λmax≈220 nm.

reactant | 2-(trans-4-{[tert-Butyl(dimethyl)silyl]oxy}cyclohexyl)-1-methyl-1H-imidazole | 0.533 mmol, 0.157 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@H](CC1)C=1N(C=CN1)C | C16H30N2OSi
reactant | 4,4′-Di-tert-butyl-[2,2′]bipyridinyl | 0.029 mmol, 7.7 mg | C(C)(C)(C)C1=CC(=NC=C1)C1=NC=CC(=C1)C(C)(C)C | C18H24N2
reactant | bis(pinacolato)diboron | 0.544 mmol, 138 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | Heptane | 10 mmol, 1.5 mL | CCCCCCC | C7H16
product | 2-(trans-4-{[tert-Butyl(dimethyl)silyl]oxy}cyclohexyl)-1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-imidazole | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@H](CC1)C=1N(C(=CN1)B1OC(C(O1)(C)C)(C)C)C | C22H41BN2O3Si
